US07696193B2
2-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one (E235)
A mixture of 2-[(3-cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-7-hydroxy-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one (E234) (90 mg, 0.25 mmol) and triethylsilane (0.1 ml) in trifluoroacetic acid (0.1 ml) was vigorously stirred at room temperature for 1 h. The mixture was concentrated in vacuo and the residue purified by column chromatography eluting with a mixture of 0.880 ammonia:methanol:dichloromethane (1:9:90); MS (ES+) m/e 350 [M+H]+.

reactant | 2-[(3-cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-7-hydroxy-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one | 0.25 mmol, 90 mg | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=CC=C1C(=N2)C(NC1=O)O | C21H23N3O3
reactant | triethylsilane | 0.1 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 0.1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=CC=C1C(=N2)CNC1=O | C21H23N3O2
